US07291643B2
4-Bromo-3-fluoroaniline (0.95 g, 5.0 mmol), 1-methyl-5-cyano-2-pyrroleboronic acid (1.35 g, 9.0 mmol), KF (0.96 g, 16.5 mmol), and Pd2(dba)3 (120 mg, 0.125 mmol) were added to a 50 mL round bottom flask under nitrogen. The flask was sealed and purged with nitrogen for 5 minutes. THF (12.5 mL) was added and the mixture was purged with nitrogen for an additional 5 minutes. A solution of tri-t-butylphosphine (10% wt in hexanes) (0.74 mL, 0.25 mmol) was added via syringe and the mixture was stirred vigorously at 25° C. for 16 hours. The mixture was diluted with 250 mL of EtOAc, filtered through a plug of silica gel, washed with 200 mL of EtOAc and concentrated to give a crude brown/black semi-solid. Purification via Isco chromatography (the Redisep® column, silica, gradient 5%-100% ethyl acetate in hexane) afforded 5-(4-amino-2-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile as a white solid (1.05 g, 98%).

reactant | 4-Bromo-3-fluoroaniline | 5.0 mmol, 0.95 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | 1-methyl-5-cyano-2-pyrroleboronic acid | 9.0 mmol, 1.35 g | CN1C(=CC=C1C#N)B(O)O | C6H7BN2O2
reactant | KF | 16.5 mmol, 0.96 g | [F-].[K+]
catalyst | Pd2(dba)3 | 0.125 mmol, 120 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(4-amino-2-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 1.05 g, 98% | NC1=CC(=C(C=C1)C1=CC=C(N1C)C#N)F | C12H10FN3
